US07217730B2
5-Cyano-1-ethoxycarbonylmethyl-8-methyl-1-propyl-1,3,4,9-tetrahydro-pyrano[3,4-b]indole-7-carboxylic acid
A 500 mL Parr flask was charged with 5-cyano-1-ethoxycarbonylmethyl-8-methyl-1-propyl-1,3,4,9-tetrahydro-pyrano[3,4-b]indole-7-carboxylic acid benzyl ester (14.24 g, 0.030 mol), 1:1 MeOH/EtOAc (180 mL), and Pd(OH)2 (20% on C, 3.02 g). The flask was shaken on a Parr shaker at 5 psi above ambient pressure for 30 minutes. The reaction mixture was filtered through a pad of Celite, washed with methanol and concentrated. Trituration with hexanes yielded 11.11 g (96.4%) of an off-white powder. 1H NMR (CDCl3) δ 10.21 (br s, 1H), 8.22 (s, 1H), 4.22 (m, 2H), 4.00 (m, 2H), 3.09 (m, 4H), 2.89 (s, 3H), 2.00 (m, 2H), 1.30 (m, 5H), 0.90 (t, J=7.6 Hz, 3H).

reactant | 5-cyano-1-ethoxycarbonylmethyl-8-methyl-1-propyl-1,3,4,9-tetrahydro-pyrano[3,4-b]indole-7-carboxylic acid benzyl ester | 0.030 mol, 14.24 g | C(C1=CC=CC=C1)OC(=O)C1=CC(=C2C3=C(NC2=C1C)C(OCC3)(CCC)CC(=O)OCC)C#N | C28H30N2O5
catalyst | Pd(OH)2 | 3.02 g | [OH-].[OH-].[Pd+2]
solvent | MeOH EtOAc | 180 mL | CO.CCOC(=O)C
product | 5-Cyano-1-ethoxycarbonylmethyl-8-methyl-1-propyl-1,3,4,9-tetrahydro-pyrano[3,4-b]indole-7-carboxylic acid | 11.11 g, 96.4% | C(#N)C1=C2C3=C(NC2=C(C(=C1)C(=O)O)C)C(OCC3)(CCC)CC(=O)OCC | C21H24N2O5
